US07351833B2
(5,6-Dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine
To a Parr bottle was charged Raney Nickel (10.1 g), water (40.0 g), tetrahydrofuran (166.3 g), ethanol (32.0 g) and acetic acid (2.5 g). A solution of 2,3-dichloro-5-nitropyridine (40.0 g) in tetrahydrofuran (40.1 g) was added to the Parr bottle in four portions and the mixture was hydrogenated at 40 psi and 35° C. for about 1 hour after each addition. The reaction mixture was cooled to room temperature, and then glyoxal-1,2-dimethyl acetal (47.2 g of 50 wt % aqueous), tetrahydrofuran (35.6 g) and water (80.4 g) were added and the mixture was hydrogenated at 40 psi and 50° C. for about 12 hours. The reaction was cooled to room temperature and then filtered through a bed of Hy-Flo. The pH of the filtrate was adjusted to 7 with 5% aqueous phosphoric acid, and then the mixture was concentrated. Isopropyl acetate (79 g) was added, this was concentrated, and then more isopropyl acetate (485 g) was added. After warming to 50° C. to dissolve the solids, the solution was washed with 5% aqueous phosphoric acid (3×215 g) and then washed with 20% aqueous sodium chloride solution (231 g). The organic solution was concentrated to about 78 mL and heptane (124 g) was added. After heating to 83° C. to dissolve everything, the solution was slowly cooled to room temperature. More heptane (124 g) was added and then the suspension was cooled to 5° C. After filtering, the wetcake was washed with cold heptane/isopropyl acetate and then dried in the vacuum oven. 1H NMR (400 MHz/CDCl3) δ 7.71 (d, J=2.7 Hz, 1H), 7.01 (d, J=2.7 Hz, 1H), 4.53 (t, J=5.2 Hz, 1H),4.05 (s, br, 1H), 3.42 (s, 6H), 3.22 (d, J=5.21 Hz, 2H).

reactant | water | 40.0 g | O | H2O
reactant | ethanol | 32.0 g | C(C)O | C2H6O
reactant | acetic acid | 2.5 g | C(C)(=O)O | C2H4O2
reactant | 2,3-dichloro-5-nitropyridine | 40.0 g | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | water | 80.4 g | O | H2O
reactant | tetrahydrofuran | 40.1 g | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 35.6 g | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 166.3 g | O1CCCC1 | C4H8O
catalyst | Raney Nickel | 10.1 g | [Ni] | Ni
product | (5,6-Dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine | ClC=1C=C(C=NC1Cl)NCC(OC)OC | C9H12Cl2N2O2
